US06610701B2
A solution of [2-(1H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester (0.23 g, 0.84 mmol), crushed potassium carbonate (0.58 g, 4.2 mmol) and iodomethane (0.26 ml, 4.2 mmol) in dimethylformamide (4.7 ml) was stirred at room temperature for 1 h. Water was added and the reaction mixture was extracted with chloroform. Drying and solvent evaporation gave a mixture of regioisomers; separation and purification by reverse phase preparative HPLC (5% to 95% CH3CN in water containing 0.1% TFA, C18 PRO YMC 20×150 mm) gave [2-(1-methyl-1H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester; 1H NMR (CDCl3, 400 MHz) δ7.66 (d, 1H, J=7.4 Hz), 7.58 (m, 1H), 7.46 (m, 1H), 7.33 (d, 1H, J=7.6 Hz), 4.17 (d, 2H, J=6.3 Hz), 4.05 (s, 3H), 1.41 (s, 9H) and [2-(2-methyl-2H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester; 1H NMR (CDCl3, 400 MHz) δ8.06 (d, 1H, J=7.4 Hz), 7.61 (d, 1H, J=7 Hz), 7.44 (m, 2H), 5.82 (bs, 1H), 4.52 (d, 2H, J=6.5 Hz), 4.44 (s, 3H), 1.43 (s, 9H ).

reactant | [2-(1H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester | 0.84 mmol, 0.23 g | C(C)(C)(C)OC(NCC1=C(C=CC=C1)C1=NN=NN1)=O | C13H17N5O2
reactant | potassium carbonate | 4.2 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.2 mmol, 0.26 ml | IC | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 4.7 ml | CN(C=O)C | C3H7NO
product | [2-(1-methyl-1H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=CC=C1)C1=NN=NN1C)=O | C14H19N5O2
